US03932429
A mixture of 0.8 g of 1-(3-methoxyphenyl)-6-azabicyclo[ 3,2,1]octane, 0.81 g of 3-(4-fluorobenzoyl)propyl chloride, 0.8 g of potassium carbonate, 0.03 g of potassium iodide and 20 ml of toluene is refluxed for 48 hours. After cooling, the mixture is treated in the same manner as described in Example 11. 0.65 g of 1-(3-methoxyphenyl)-6-[3-(4-fluorobenzoyl)propyl]-6-azabicyclo[3,2,1]octane hydrochloride is obtained. M.p. 195° - 196°C(recrystallized from a mixture of ethanol and ether).

reactant | 1-(3-methoxyphenyl)-6-azabicyclo[ 3,2,1]octane | 0.8 g | COC=1C=C(C=CC1)C12CCCC(NC1)C2 | C14H19NO
reactant | 3-(4-fluorobenzoyl)propyl chloride | 0.81 g | FC1=CC=C(C(=O)CCCCl)C=C1 | C10H10ClFO
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.03 g | [I-].[K+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-methoxyphenyl)-6-[3-(4-fluorobenzoyl)propyl]-6-azabicyclo[3,2,1]octane hydrochloride | 0.65 g | Cl.COC=1C=C(C=CC1)C12CCCC(N(C1)CCCC(C1=CC=C(C=C1)F)=O)C2 | InChI=1S/C24H28FNO2.ClH/c1-28-22-7-2-5-19(15-22)24-13-3-6-21(16-24)26(17-24)14-4-8-23(27)18-9-11-20(25)12-10-18;/h2,5,7,9-12,15,21H,3-4,6,8,13-14,16-17H2,1H3;1H
